US07420055B2
Synthesis of 4-(4-methyl-oxazol-5-yl)-benzenesulfonyl Chloride
4-methyl-5-phenyl-oxazole (1.6 g, 10 mmol), prepared according to the literature (Heterocycles, 1977, 7, 77-80), was dissolved in chlorosulfonic acid (10 mL) and stirred at room temperature for 4 h. The reaction mixture was added to crushed ice (50 g) and the product was extracted with ether (3×50 mL). The combined organic extract was dried over anhydrous Na2SO4 and ether was evaporated. The product was purified by flash chromatography (silica-gel, 5-20% ethylacetate/hexane mobile phase) to yield 0.91 g of the desired-title compound light yellow solid. MS: m/z 258.0 (M++1).

reactant | 4-methyl-5-phenyl-oxazole | 10 mmol, 1.6 g | CC=1N=COC1C1=CC=CC=C1 | C10H9NO
reactant | chlorosulfonic acid | 10 mL | ClS(=O)(=O)O | ClHO3S
product | 4-(4-methyl-oxazol-5-yl)-benzenesulfonyl Chloride | 0.91 g | CC=1N=COC1C1=CC=C(C=C1)S(=O)(=O)Cl | C10H8ClNO3S
